US07652051B2
Synthesis of 4-[5-(4-chloro-3-(trifluoromethyl)-phenyl)-4H-1,2,4-triazol-3-ylamino]phenol
4-chloro-3-trifluoromethylbenzoic acid hydrazide (2.89 g, 12.1 mmol) and S-methyl N-(4-hydroxyphenyl)isothiourea hydroiodide (3.75 g, 12.1 mmol) were suspended in 40 mL of anhydrous pyridine. The reaction mixture was refluxed for 18 hours, during which time it changed color from yellow into dark-red. Then it was cooled down to ambient temperature and poured with stirring into 250 mL of ice-water. The aqueous solution was decanted and the oily residue was purified by silica gel chromatography using 1:1 mixture of ethyl acetate/hexane. Solvent was removed in vacuo to give the title product as a white solid (1.95 g). Yield 45.5%.

reactant | 4-chloro-3-trifluoromethylbenzoic acid hydrazide | 12.1 mmol, 2.89 g | ClC1=C(C=C(C(=O)NN)C=C1)C(F)(F)F | C8H6ClF3N2O
reactant | S-methyl N-(4-hydroxyphenyl)isothiourea hydroiodide | 12.1 mmol, 3.75 g | I.CSC(NC1=CC=C(C=C1)O)=N
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 4-[5-(4-chloro-3-(trifluoromethyl)-phenyl)-4H-1,2,4-triazol-3-ylamino]phenol | 1.95 g, Yield 45.5% | ClC1=C(C=C(C=C1)C=1NC(=NN1)NC1=CC=C(C=C1)O)C(F)(F)F | C15H10ClF3N4O
